US05608056
To a solution of (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-formylpyrrolidine (30.0 g) in tetrahydrofuran (300 ml) was added methyl (triphenylphosphoranylidene)acetate (35.2 g) and the mixture was stirred at room temperature overnight. The solvent was evaporated and the residue was chromatographed on a 300 g of silica gel to give (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-methoxy-3-oxo-1-propenyl)pyrrolidine (29.8 g) as a colorless oil.

reactant | (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-formylpyrrolidine | 30.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C15H27NO4Si
reactant | methyl (triphenylphosphoranylidene)acetate | 35.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-methoxy-3-oxo-1-propenyl)pyrrolidine | 29.8 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=CC(=O)OC | C18H31NO5Si
